US07138400B2
2,3-bis(hydroxymethyl)pyridine hydrochloride (JP 49 020181) (2.7 g, 15.4 mmol) was added portionwise to stirred thionyl chloride (20 mL) at 0° C. under nitrogen. The cooling bath was removed, and the reaction allowed to come to room temperature, then heated at reflux for one hour. The dark mixture was allowed to cool to room temperature, then the thionyl chloride was removed in vacuo. The residue was azeotroped with toluene (x2), the brown solid residue treated with ice, basified with Na2CO3 (sat), then extracted with diethyl ether (x3). The combined extracts were dried (Na2SO4), filtered and evaporated to give 2,3-bis(chloromethyl)pyridine (2.6 g) as a red/brown liquid. This material was used immediately in the next step.

reactant | 2,3-bis(hydroxymethyl)pyridine hydrochloride | 15.4 mmol, 2.7 g | Cl.OCC1=NC=CC=C1CO
reactant | thionyl chloride | 20 mL | S(=O)(Cl)Cl | Cl2OS
product | 2,3-bis(chloromethyl)pyridine | 2.6 g | ClCC1=NC=CC=C1CCl | C7H7Cl2N
